US06596772B1
Sodium hydride (65 mg 60% dispersion oil, 1.58 mmol) was added to a solution of 4-(trifluoromethylthio)benzyl alcohol (300 mg, 1.44 mmol) in THF (10 mL) at rt. After stirring for 10 min, to the mixture was added 4-(trifluoromethylthio)benzyl bromide (410 mg, 1.51 mmol), stirring was continued overnight. The reaction was quenched with saturated ammonium chloride solution, extracted with EtOAc, washed with water and dried to give 0.5 g (85%) of bis(4-trifluoromethylthiobenzyl) ether as a yellow oil. 1HNMR (360 MHz, DMSO-d6) δ 7.70 (d, J=8.1 Hz, 4H), 7.53 (d, J=8.1 Hz, 4H), 4.65 (s, 4H, CH2OCH2). MS-EI m/z 398 [M+].

reactant | Sodium hydride | 1.58 mmol, 65 mg | [H-].[Na+]
reactant | 4-(trifluoromethylthio)benzyl alcohol | 1.44 mmol, 300 mg | FC(SC1=CC=C(CO)C=C1)(F)F | C8H7F3OS
reactant | 4-(trifluoromethylthio)benzyl bromide | 1.51 mmol, 410 mg | FC(SC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | bis(4-trifluoromethylthiobenzyl) ether | 0.5 g, 85% | FC(SC1=CC=C(COCC2=CC=C(C=C2)SC(F)(F)F)C=C1)(F)F | C16H12F6OS2
